US05283241
Step O: 4-Hydroxymethyl-2'-(methoxycarbonyl)amino-1,1'-biphenyl
The crude 4-(tetrahydropyranyloxy)methyl-2'-(methoxycarbonyl)amino-1,1'-biphenyl (250 mg) dissolved in 4 mL of methanol was treated with 1 mL of 10% methanolic p-toluenesulfonic acid. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was made basic by the addition of saturated aqueous sodium bicarbonate, then diluted with ethyl acetate. The organic layer was washed with water (2×), dried over magnesium sulfate and evaporated under vacuum. The residue was purified by preparative thin layer chromatography on silica gel, eluting with methylene chloride/methanol (100:3) to give 137 mg of the product. FAB-MS (Li+ spike): calculated for C15H15NO3 (257); found 264 (M+Li). 1H NMR (200 MHz, CDCl3): 3.51 (s, 3H), 4.75 (s, 2H), 6.62 (br s, 1H), 7.14 (dd, 2H), 7.34 (dd, 1H), 7.4 (dd, 4H).

reactant | 4-(tetrahydropyranyloxy)methyl-2'-(methoxycarbonyl)amino-1,1'-biphenyl | 250 mg | O1C(CCCC1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)OC | C20H23NO4
reactant | p-toluenesulfonic acid | 1 mL | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxymethyl-2'-(methoxycarbonyl)amino-1,1'-biphenyl | 137 mg | OCC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)OC | C15H15NO3
